US04851412
2-(5-Amino-6-chloro-4-pyrimidinylamino)ethanol (Chem. Pharm. Bull., 1961, 9, 27) (5.71 g, 30.3 mmol) and acetic anhydride (50 ml) were heated together under nitrogen at 120° C. for 20 hours. The excess reagent was removed under reduced pressure and the residue was neutralised with aqueous sodium bicarbionate and extracted with dichloromethane (4×70 ml). The extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with ethyl acetate) to give 3-(2-acetoxyethyl)-2-methyl-7-chlorimidazo-[4,5-d]pyrimidine (1.597 g, 21%), as a white solid.

reactant | 2-(5-Amino-6-chloro-4-pyrimidinylamino)ethanol | 30.3 mmol, 5.71 g | NC=1C(=NC=NC1Cl)NCCO | C6H9ClN4O
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2-acetoxyethyl)-2-methyl-7-chlorimidazo-[4,5-d]pyrimidine | 1.597 g, 21% | C(C)(=O)OCCN1C(=NC2=C1N=CN=C2Cl)C | C10H11ClN4O2
